US05157041
A solution of 0.60 g of tert.butyl 1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide and 0.66 g of 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane in 20 ml of methanol was heated at reflux under argon for 16 hours and then evaporated to give a clear oil. The two diastereomeric products were separated by flash chromatography on silica gel using n-hexane/ethyl acetate (3:1) for the elution. There were obtained 268 mg of isomer A of 2-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide, MS: m/e 569 [M+H]+, and 65 mg of isomer B of the same compound; MS: m/e 569 [M+H]+.

reactant | tert.butyl 1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | 0.60 g | C(C)(C)(C)C1(NCCC2=C1NC1=CC=CC=C21)C(=O)N | C16H21N3O
reactant | 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane | 0.66 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
solvent | methanol | 20 ml | CO | CH4O
product | 2-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1,2,3,4-tetrahydropyrido[3,4-b]indole-1-carboxamide | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1C(C=2NC3=CC=CC=C3C2CC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C34H40N4O4
